US06387911B1
3-(ethylthio)pyridine-2-methylamine dihydrochloride
A mixture of 2-cyano-3-(ethylthio)pyridine (613 mg, 3.73 mmol) and concentrated HCl (0.93 mL, 11.2 mmol) in degassed ethanol (18 mL) was hydrogenated over 10% palladium on carbon (184 mg) at 60 psi overnight. Additional 10% palladium on carbon (180 mg) and conc. HCl (1 mL) were added to the reaction and hydrogenation was resumed at 61 psi overnight. The reaction mixture was filtered through Celite and washed with methanol. The filtrate was concentrated at reduced pressure to an orange solid which was taken up in methanol (12 mL). 10% Palladium on carbon (300 mg) and concentrated HCl (2.4 mL of a 6 M aqueous solution) were added and the mixture was hydrogenated at 57 psi for 3 days. The reaction mixture was again filtered through Celite, and the filter cake was washed with ethanol. The product was concentrated to a yellow-orange oil, which was taken up in methanol and treated with 1.0 M HCl in ether. The solvent was removed is vacuo to afford the title compound as an orange solid:

reactant | 2-cyano-3-(ethylthio)pyridine | 3.73 mmol, 613 mg | C(#N)C1=NC=CC=C1SCC | C8H8N2S
reactant | HCl | 11.2 mmol, 0.93 mL | Cl | ClH
reactant | HCl | 1 mL | Cl | ClH
solvent | ethanol | 18 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 184 mg | [Pd] | Pd
catalyst | palladium on carbon | 180 mg | [Pd] | Pd
product | 3-(ethylthio)pyridine-2-methylamine dihydrochloride | Cl.Cl.C(C)SC=1C(=NC=CC1)CN | InChI=1S/C8H12N2S.2ClH/c1-2-11-8-4-3-5-10-7(8)6-9;;/h3-5H,2,6,9H2,1H3;2*1H
